US06331640B1
Trifluoromethanesulfonic anhydride (3.55 mL, 21.1 mmol) was added to a cooled (−75° C.) solution of 2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]phenol (7.50 g, 17.6 mmol) and triethylamine (9.8 mL, 70.4 mmol) in dry dichloromethane (70 mL). After stirring for 3 h at ˜−70° C., the reaction was quenched with solid ammonium chloride (6 g). The solvent was evaporated and ethyl acetate was added. The solution was washed with 1N HCl, saturated aqueous sodium bicarbonate and brine. The organic layer was dried (MgSO4), filtered, evaporated and dried under high vacuum to give trifluoromethanesulfonic acid, 2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]phenyl ester (9.46 g, 97%) as pale orange oil.

reactant | Trifluoromethanesulfonic anhydride | 21.1 mmol, 3.55 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]phenol | 17.6 mmol, 7.50 g | ClC1=C(C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)Cl)O | C20H25Cl2NO3Si
reactant | triethylamine | 70.4 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid, 2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]phenyl ester | 9.46 g, 97% | FC(S(=O)(=O)OC1=C(C=C(C=C1Cl)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)Cl)(F)F | C21H24Cl2F3NO5SSi
